US07598264B2
Step 2: 4-hydroxy-N,N,2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide
A solution of 6-(4-methoxybenzyl)-4-methoxy-N,N, 2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide (0.18 g, 0.45 mmol) in toluene (about 3 mL) was treated with p-toluene sulfonic acid (0.34 g, 1.8 mmol). The mixture was heated to 110° C. for 4 hours, then cooled and concentrated under vacuum. The residue was partitioned between water and EtOAc, the aqueous layer concentrated, and the residue purified by reverse phase chromatography to give the title product.

reactant | 6-(4-methoxybenzyl)-4-methoxy-N,N, 2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | 0.45 mmol, 0.18 g | COC1=CC=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)N(C)C)C)=O)OC)=O)C=C1 | C21H25N3O5
reactant | p-toluene sulfonic acid | 1.8 mmol, 0.34 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | about 3 mL | C1(=CC=CC=C1)C | C7H8
product | 4-hydroxy-N,N,2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | OC=1C(N(C(=C2CCNC(C12)=O)C(=O)N(C)C)C)=O | C12H15N3O4
